Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
fatigue, myalgias
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with history of suspected
CTD/SLE on hydroxychloroquine and previously on steroids now
presenting with fatigue.

History is taken per review of the chart and per the patient. He
reports that when he was ___ year ___, he developed a swollen
lymph node in his right groin, high fevers up to 105, an 
enlarged
spleen, and a leukocytosis. He was admitted to a hospital in
___ and had a lymph node biopsy that he reports was normal.
He had an infectious evaluation that did not reveal a cause of
his symptoms. Removal of his spleen was discussed at that time
but deferred. Ultimately, he felt better and was discharged from
the hospital and felt well without recurrence of symptoms until
___

In ___, he developed right facial numbness and right-sided
weakness for which he was admitted to BID-N. After extensive
evaluations, his symptoms were attributed to hemiplegic 
migraine.
He was subsequently seen by Neurology as an outpatient. His
symptoms resolved.

He subsequently saw rheumatology in ___ for joint pain,
fatigue, and malar rash. Patient found to have positive ___ with
titer 1:320; ANCA, Ro, La, myosititis Ab profile, Anti-Sm, RNP 
Ab
negative. Aldolase mildly elevated at 8.9 (ULN 8.1). ESR/CRP not
elevated. CK not elevated. Ferritin normal. He was thought to
have CTD, likely SLE, with associated myositis, inflammatory
arthritis, malar rash, and Raynaud's. He was started on
hydroxychloroquine and prednisone in ___. His symptoms
improved dramatically on these medications, and his steroids 
were
weaned off in ___.

However, after discontinuation of steroids he developed high
fevers to 102-103 with swollen cervical lymph node and
unintentional weight loss of about 20 pounds. He also developed
left upper quadrant pain that radiated to his left upper
shoulder. He also has multiple episodes of diarrhea per day,
which has been an ongoing issue; he has previously had
EGD/colonoscopy in ___ that were unremarkable.

He was seen in ___ clinic on ___ and extensive infectious
evaluation and imaging was undertaken that has thus far returned
negative. He also saw Heme/Onc on ___ who felt that his 
condition
was likely not hematologic given his indolent course, although
his steroid-responsiveness did raise concern for possible
leukemia or lymphoma. He underwent bone marrow biopsy on ___. 

On ___, he also underwent vaccination in anticipate of possible
splenectomy. He received polyvalent pneumococcal, HIB,
meningococcal and polysaccharide diphtheria toxoid conjugate
vaccines.

He reports that he went home on ___ and felt extremely fatigued.
When he awoke on the morning of ___ he felt unwell, with 
malaise,
diffuse myalgias, left upper quadrant pain, nausea, and 
vomiting.
He denies any new rashes. He feels fatigued and short of breath
with exertion, which is not new, but denies any acute shortness
of breath or wheezing. He spoke with his PCP who encouraged him
to come to the ED for further evaluation. 

In the ED, vitals: 97.8 100 118/66 16 100% RA 
Exam notable for: 
- Abdomen soft, mild tenderness in the LUQ, +splenomegaly, no
rebound or guarding
- Biopsy site over R posterior hip is clean/dry/intact with no
surrounding erythema or drainage
- Bilateral deltoids are tender to palpation
- Skin warm and dry, no rash
- Left otitis externa
Labs: WBC, BMP, LFTs wnl
Imaging: CXR
Patient given: Zofran 4 mg IV, Tylenol 1 g, 1L NS

On arrival to the floor, the patient reports that he feel
extremely fatigued, has diffuse soreness, and is nauseated. He
states that the Zofran was helpful.

 
Past Medical History:
- Biopsy of inguinal LN/enlarged spleen at 18
- Bilateral meniscus surgery
 
Social History:
___
Family History:
- Father: HPV-related esophageal cancer
- Mother: ___ disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VITALS: 98.6 124/70 60 18 98 RA 
GENERAL: Alert and in no apparent distress, tired-appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, no oral
ulcers
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in LUQ. 
Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no synovitis
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

DISCHARGE PHYSICAL EXAM:
VITALS: ___ 0719 Temp: 98.4 PO BP: 115/61 HR: 62 RR: 18 O2 
sat: 97% O2 delivery: Ra 
ORTHOSTATIC VITALS:
___ 1402 BP: 111/57 Lying HR: 65 O2 sat: 98% 
___ 1403 BP: 123/72 Sitting HR: 79 O2 sat: 100% 
___ 1403 BP: 128/66 Standing HR: 91 O2 sat: 100% 
GENERAL: Alert, oriented, no acute distress 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, no oral 
ulcers
LAD: no cervical, supraclavicular, axillary and inguinal LAD
CV: Bradycardic, regular rhythm, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, nontender to palpation. Bowel 
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs, no synovitis. TTP over R 
shoulder/upper arm at site of vaccine administration
SKIN: No rashes or ulcerations noted. site of vaccine 
administration mildly indurated and erythematous, ttp
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,speech fluent, moves all limbs, sensation to light touch 
grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
___ 05:10PM   WBC-6.1 RBC-4.54* HGB-14.8 HCT-43.0 MCV-95 
MCH-32.6* MCHC-34.4 RDW-12.0 RDWSD-41.3
___ 05:10PM   NEUTS-76.7* LYMPHS-13.6* MONOS-7.4 EOS-1.3 
BASOS-0.5 IM ___ AbsNeut-4.70 AbsLymp-0.83* AbsMono-0.45 
AbsEos-0.08 AbsBaso-0.03
___ 05:10PM   CRP-5.0
___ 05:10PM   ALBUMIN-4.4 CALCIUM-9.1 PHOSPHATE-3.4 
MAGNESIUM-1.8
___ 05:10PM   LIPASE-25
___ 05:10PM   ALT(SGPT)-19 AST(SGOT)-21 CK(CPK)-282 ALK 
PHOS-61 TOT BILI-1.4
___ 05:10PM   GLUCOSE-82 UREA N-9 CREAT-0.9 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-25 ANION GAP-8*
___ 05:31PM   LACTATE-1.4
___ 05:49PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 05:49PM URINE  COLOR-Straw APPEAR-Clear SP ___

MICRO:
___ STOOL OVA + PARASITES-PENDING 
___ STOOL FECAL CULTURE-PENDING; CAMPYLOBACTER 
CULTURE-PENDING; OVA + PARASITES-PENDING; FECAL CULTURE - R/O 
YERSINIA-PENDING; Cryptosporidium/Giardia (DFA)-PENDING 
___ URINE URINE CULTURE-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING; BRUCELLA BLOOD CULTURE-PENDING 

IMAGING:
CXR ___ ACUTE CARDIOPULMONARY PROCESS
ECG: NSR, normal ECG

DISCHARGE LABS:
___ 06:30AM BLOOD WBC-7.8 RBC-4.12* Hgb-13.5* Hct-38.8* 
MCV-94 MCH-32.8* MCHC-34.8 RDW-11.9 RDWSD-41.4 Plt ___
___ 06:30AM BLOOD Glucose-92 UreaN-8 Creat-0.9 Na-140 K-4.2 
Cl-105 HCO3-25 AnGap-10
 
Brief Hospital Course:
___ is a ___ w/ recent diagnosis of SLE/CTD, 
drenching night sweats and weight loss who is here w/ myalgias, 
nausea and vomiting in the setting of receiving multiple 
immunizations. Patient's labs were unremarkable, and his 
symptoms improved with symptomatic care and rehydration. He had 
mild ongoing nausea at discharge but was able to tolerate po and 
was thus deemed safe for discharge. While in the hospital, he 
was seen by Nutrition and found to be severely malnourished, for 
which he was started on multivitamin with minerals and 
recommended that he drinks protein shakes. 

TRANSITIONAL ISSUES:
====================
[]Extensive workup initiated outpatient by ID and Heme/Onc still 
pending at discharge. Specialty teams to follow-up and reach out 
for further management.
[]please follow up regarding nutritional status and ability to 
take po. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO BID 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Super Thera Vite M]  1 tablet(s) 
by mouth once a day Disp #*30 Tablet Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*30 Tablet Refills:*0 
3.  Hydroxychloroquine Sulfate 200 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Flu-like illness post-vaccination
Myalgia
Nausea and vomiting
Drenching night sweats
Anemia
Systemic lupus erythematosis/connective tissue disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___.

You were admitted for dehydration, nausea and muscle aches. Your 
symptoms appear to be most likely due to viral-like illness 
secondary to the 3 vaccines you received the day prior to 
admission. Your symptoms improved with hydration. You received 
Zofran for your nausea which helped.

Please try to hydrate aggressively at home -take in 1.5-2L 
fluid/day. If your appetite is low, try to drink a protein 
shakes and choose high-calorie options to prevent further weight 
loss. 

Please call your doctor's office or go to the ED if you notice 
any fevers, worsening symptoms, inability to tolerate food, 
dizziness or any other concerning symptoms. 

Of note, your extensive outpatient workup should result in the 
next few days. You can check your results on PatientSite; 
otherwise, your outpatient doctors ___ to update you 
and guide next steps.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___